US06103707
Synthesis of 9-(2-deoxy-2-fluoro-4-thio-beta-D-arabinofuranosyl)guanine (B=guanine and R=H in formula [I])
114 mg of the crude anomer mixture of 9-(2-deoxy-2-fluoro-4-thio-D-arabinofuranosyl)-2,6-diaminopurine (beta/alpha=1.55) obtained in Synthesis Example 2 was suspended in 25 ml of tris hydrochloric acid buffer solution (pH=7.0). To this suspension was added 0.43 ml (100 units) of adenosine deaminase, and the mixture was stirred at room temperature for 6 hours. The reaction solution was purified by ODS reverse phase column chromatography to obtain 48 mg (yield 48%) of the title compound.

reactant | 9-(2-deoxy-2-fluoro-4-thio-D-arabinofuranosyl)-2,6-diaminopurine | F[C@@H]1C(S[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)N)N | C10H13FN6O2S
reactant | adenosine | 0.43 ml | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
solvent | hydrochloric acid | 25 ml, pH=7.0 | Cl | ClH
product | 9-(2-deoxy-2-fluoro-4-thio-beta-D-arabinofuranosyl)guanine | 48 mg, yield 48% | F[C@@H]1[C@@H](S[C@@H]([C@H]1O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C10H12FN5O3S
